US05068300
1-(4-Carbo-tert.-butoxyphenyl)-2-(4'-carbethoxy-biphenyl-4-yl)-ethyne
100 ml of triethylamine, 6.3 g of triphenylphosphine, 2.81 g of (Pφ3)2PdCl2 and 0.77 g of copper(I)iodide are added under nitrogen to 61 g of 4-bromo-4'-carbethoxybiphenyl in 300 ml of absolute acetonitrile. 44.3 g of 4-ethinyl-benzoic acid tert.-butyl ester dissolved in 300 ml of absolute acetonitrile are slowly added dropwise at the reflux temperature and the reaction mixture is boiled overnight. It is then suction filtered while hot and stirred up in water and again suction filtered and the residue is dissolved in CH2Cl2 and filtered after the addition of Tonsil.

reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromo-4'-carbethoxybiphenyl | 61 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C15H13BrO2
reactant | 4-ethinyl-benzoic acid tert.-butyl ester | 44.3 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#C)=O | C13H14O2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
catalyst | copper(I)iodide | 0.77 g | [Cu]I
product | 1-(4-Carbo-tert.-butoxyphenyl)-2-(4'-carbethoxy-biphenyl-4-yl)-ethyne | C(=O)(OC(C)(C)C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C28H26O4
